High-Pass Filter using op-amp TL084
*Including the predefined op-amp subcircuit file
.include TL084.txt
*Connections as mentioned in subcircuit file
X1 1 2 3 4 2 TL084
L1 1 0 1
R1 1 5 6283
vcc 3 0 dc 15v
vee 4 0 dc -15v
vin 5 0 dc 0 ac 1 $ac analysis
*analysis command
.ac dec 10 1 1Meg 
.control 
run
*display cmd
plot vdb(2)
*end control mode
.endc 
*end netlist
.endc