Inverting-Amplifier using op-amp 741
*Including the predefined op-amp subcircuit file
.include ua741.txt
*Connections as mentioned in subcircuit file
x1 5 1 2 3 4 UA741
r1 0 1 1k
r2 4 1 10k
vcc 2 0 dc 15v
vee 3 0 dc -15v
*Giving a sinusoidal input
vin 5 0 dc 0 ac 1
*svin 5 0 sin (0 2 1k 0 0)
.ac dec 10 10 10Meg
.control
run
alter r2 100k
*plot vdb(4)-vdb(5)
run
plot 20*log10(abs(ac1.v(4)))-20*log10(abs(ac1.v(5))) 20*log10(abs(ac.v(4)))-20*log10(abs(ac.v(5)))
*plot vdb(4)-vdb(5)
.endc