Shunt Clipper DC analysis
.include Diode_1N914.txt
r1 1 2 1k
*Specifying a default diode p n
d1 2 3 1N914
*Independent DC source of 2V
vdc 3 0 dc 2
*Independent DC source whose voltage is to be varied
vin 1 0 dc 0
*DC Analysis on source vin, to vary from -5 to +5V
.dc vin -5 5 0.01
.control
run
plot v(2) vs v(1)
.endc